US07553964B2
1,3,5-Trimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole
A solution of 4-bromo-1,3,5-trimethyl-1H-pyrazole (1 g, 5.3 mmol) in anhydrous THF (20 mL) cooled to −78° C. under a nitrogen atmosphere was treated dropwise with n-butyl lithium (4.2 mL, 1.6 M in hexane) and stirred at room temperature for 20 minutes. Then, 2-isopropoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (1.7 mL, 8.3 mmol) was added dropwise at −78° C. and allowed to warm to ambient temperature overnight. Ethyl acetate was added and the mixture was filtered through diatomaceous earth. The filtrate was concentrated and chromatographed on silica gel eluting with 40% ethyl acetate in hexanes to provide the title compound as white crystals (996 mg, 77%). 1H NMR (300 MHz, CDCl3) δ 1.29 (s, 12 H), 2.33 (s, 3 H), 2.37 (s, 3 H), 3.69 (s, 3 H); (DCl/NH3) m/z 237 (M+H)+.

reactant | 4-bromo-1,3,5-trimethyl-1H-pyrazole | 5.3 mmol, 1 g | BrC=1C(=NN(C1C)C)C | C6H9BrN2
reactant | n-butyl lithium | 1.6 M, 4.2 mL | C(CCC)[Li]
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 8.3 mmol, 1.7 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,3,5-Trimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 996 mg, 77% | CN1N=C(C(=C1C)B1OC(C(O1)(C)C)(C)C)C | C12H21BN2O2
